US08217066B2
Step 1: 5-(4-Bromo-phenyl)-3-methyl-4-(4-phenyl-but-1-enyl)-isoxazole:
To a solution of (3-phenylpropyl)triphenylphosphonium bromide (0.956 g, 2.07 mmol) in THF (5 mL) at −78° C. was slowly added n-butyllithium (2.5 M in hexanes, 0.83 mL, 2.07 mmol) and the mixture was stirred for 15 minutes. 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde (0.500 g, 1.88 mmol) in THF (3 mL) was added, and the reaction was warmed to 0° C. and stirred for 1 hour. The solution was diluted with 1 N aqueous HCl and extracted twice with EtOAc. The combined organic layers were dried over Na2SO4, decanted, and concentrated. The residue was purified by silica gel chromatography (0-20% EtOAc in hexanes) to give the title compound.

reactant | (3-phenylpropyl)triphenylphosphonium bromide | 2.07 mmol, 0.956 g | [Br-].C1(=CC=CC=C1)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 2.07 mmol, 2.5 M, 0.83 mL | C(CCC)[Li]
reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | 1.88 mmol, 0.500 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | HCl | 1 N | Cl | ClH
product | 5-(4-Bromo-phenyl)-3-methyl-4-(4-phenyl-but-1-enyl)-isoxazole | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=CCCC1=CC=CC=C1 | C20H18BrNO
